US06808862B2
In a mixed solvent of 200 ml of water and 200 ml of methanol was dissolved 60 g of potassium perfluorobutanesulfonate, and to the solution was added a solution containing 49,5 g of phenacylthiophenium bromide dissolved in 300 ml of water. The aqueous solution was extracted twice with each 200 ml of chloroform, and the organic phase was washed with water and concentrated to obtain a crude product. To the crude product was added 300 ml of distilled water, the mixture was heated at 100° C. for 30 minutes and cooled to deposit a solid product. The solid product was collected by filtration and subjected to reslurry with diisopropyl ether to obtain 77 g of phenacylthiophenium perfluorobutanesulfonate.

reactant | potassium perfluorobutanesulfonate | 60 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[K+]
reactant | phenacylthiophenium bromide | 49,5 g | [Br-].C(C(=O)C1=CC=CC=C1)C=1[SH+]C=CC1
solvent | water | 200 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | phenacylthiophenium perfluorobutanesulfonate | 77 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.C(C(=O)C1=CC=CC=C1)C=1[SH+]C=CC1 | InChI=1S/C12H10OS.C4HF9O3S/c13-12(9-11-7-4-8-14-11)10-5-2-1-3-6-10;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h1-8H,9H2;(H,14,15,16)
